US07622492B2
Trifluoroacetic acid (55 mL) was added slowly over 1-2 min to a solution of N-(2-chloro-phenyl)-N′-((1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (23.4 g, 56 mmol) in dry dichloromethane (55 mL), and the resulting solution was stirred at room temperature for 3 h. The solvent was evaporated and dichloromethane (350 mL) was added. The solution was washed with water (3×150 mL) and brine (150 mL), dried (sodium sulfate), filtered, evaporated, and dried under high vacuum over the weekend to give (4S,7R)-2-(2-chloro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (16.07 g, 95%) as a pale solid.

reactant | Trifluoroacetic acid | 55 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(2-chloro-phenyl)-N′-((1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | 56 mmol, 23.4 g | C(C)(C)(C)OC(=O)N(NC(=O)C1[C@H]2CC[C@@](C1=O)(C2(C)C)C)C2=C(C=CC=C2)Cl | C22H29ClN2O4
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | (4S,7R)-2-(2-chloro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 16.07 g, 95% | ClC1=C(C=CC=C1)N1NC=2[C@@]3(CC[C@H](C2C1=O)C3(C)C)C | C17H19ClN2O
